US05705504
3-Ethoxycarbonyl-3-(4-nitrophenyl)propionic acid
Following a similar procedure to that described in reference example 7b, but starting fromethyl 4-nitrophenylacetate instead of ethyl diphenylacetate, and hydrolizing then the tert-butyl ester using p-toluenesulfonic acid in benzene at reflux instead of using trifluoroacetic acid, the title compound was obtained.

reactant | 4-nitrophenylacetate | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)[O-]
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-Ethoxycarbonyl-3-(4-nitrophenyl)propionic acid | C(C)OC(=O)C(CC(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H13NO6
